US04386026
6-Phthalimido-1-(5-cholesten-3β-yloxy)hexane
A mixture of 6-(5-cholesten-3β-yloxy)hexyl iodide (1.0 g) and potassium phthalimide (1.0 g) in DMF (25 ml) is heated with stirring for 0.5 hours at 85°-90° C. (bath temperature). The mixture is filtered and the filtrate is evaporated in vacuo to a residue that is partitioned between chloroform and water. The organic layer is washed with aqueous sodium thiosulfate and water, dried, and evaporated to a syrup that crystallizes upon standing. Recrystallization from petroleum ether gives the title compound (0.92 g, 89%) mp 80° C.

reactant | 6-(5-cholesten-3β-yloxy)hexyl iodide | 1.0 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)OCCCCCCI | C33H57IO
reactant | potassium phthalimide | 1.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 6-Phthalimido-1-(5-cholesten-3β-yloxy)hexane | 0.92 g, 89% | C1(C=2C(C(N1CCCCCCO[C@@H]1CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC1)C)C)=O)=CC=CC2)=O | C41H61NO3
